US05420115
2-Amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-6-iodo-9H-purine
2-Amino-6-iodopurine (0.8 g, 3.1 mmoles) which may be prepared according to R. T. Koda et al. (J. Pharm. Sci. 57:2056, 1968) and 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil (0.39 g, 1.6 mmoles) which may be prepared according to J. F. Codington et al. (J. Org. Chem. 29:558, 1964) were suspended in 20 ml of 10 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. The pH of the suspension was adjusted to 7.2 with KOH. Thymidine phosphorylase (2,000 I.U.) and purine nucleoside phosphorylase (3,250 I.U.) (T. A. Krenitsky et al., Biochemistry 20:3615, 1981 and U.S. Pat. No. 4,381,344) were added and the suspension stirred at 37° C. On day 12, the pH of the reaction was adjusted to 6.8 with acetic acid, and 2,000 I.U. of thymidine phosphorylase and 3,250 I.U. of purine nucleoside phosphorylase were added. On day 26, the reaction was diluted to 500 ml with 5 mM potassium phosphate buffer, pH 7, which contained 0.04% (w/v) potassium azide, and 2,000 I.U. thymidine phosphorylase and 3,250 I.U. purine nucleoside phosphorylase were added. On day 40, the reaction was filtered. The filtrate was evaporated. The residue was suspended in water/n-propanol (7/3) and filtered. The filtrate was evaporated. The residue was suspended in methanol and then filtered. The product which was contained in the filtrate was purified by chromatography on a 5×90 cm column of Biogel P-2 (Bio-Rad) with water/n-propanol (7/3) as the solvent, followed by chromatography on a 5×90 cm column of Sephadex G-10 (Pharmacia LKB) whith water/n-propanol (7/3) as the solvent. After the solvent was removed under vacuum, the residue was suspended in water and lyophilized to obtain title compound that analyzed as a 0.6 hydrate.

reactant | 2-Amino-6-iodopurine | 3.1 mmoles, 0.8 g | NC1=NC(=C2NC=NC2=N1)I | C5H4IN5
reactant | 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil | 1.6 mmoles, 0.39 g | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | KOH | [OH-].[K+]
reactant | Thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 20 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | potassium phosphate | 5 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-6-iodo-9H-purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@H](O)[C@H](O1)CO)F)I | C10H11FIN5O3
